US06881844B2
A solution of triphenylphosphine (243 mg, 0.92 mmol) in methylene chloride (3 mL) cooled to 0° C. was treated with N-bromosuccinimide (165 mg, 0.92 mmol). This solution was stirred at 0° C. for 15 min. At this time, the reaction was treated with 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid (200 mg, 0.84 mmol). This solution was stirred at 0° C. for 15 min and then was allowed to warm to 25° C. where it was stirred for 30 min. The reaction was then treated with 2-amino-5-chloropyridine (270 mg, 2.10 mmol) and was then stirred at 25° C. for 40 h. At this time, the reaction was diluted with water (25 mL) and ethyl acetate (25 mL). This mixture was treated with a saturated aqueous sodium bicarbonate solution (10 mL). The organic layer was separated and was washed with a saturated aqueous sodium chloride solution (1×25 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 5/1 hexanes/ethyl acetate) afforded 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid (5-chloro-pyridin-2-yl)-amide (84 mg, 29%) as a pale yellow solid: mp 131-134° C.; EI-HRMS m/e calcd for C17H15Cl2N3O (M+) 347.0592, found 347.0594.

reactant | triphenylphosphine | 0.92 mmol, 243 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 0.92 mmol, 165 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid | 0.84 mmol, 200 mg | ClC1=CC=C2C(=CN(C2=C1)C(C)C)C(=O)O | C12H12ClNO2
reactant | 2-amino-5-chloropyridine | 2.10 mmol, 270 mg | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 25 mL | O | H2O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 6-chloro-1-isopropyl-1H-indole-3-carboxylic acid (5-chloro-pyridin-2-yl)-amide | 84 mg, 29% | ClC=1C=CC(=NC1)NC(=O)C1=CN(C2=CC(=CC=C12)Cl)C(C)C | C17H15Cl2N3O
